US09056874B2
N-((4-((5-cyano-1H-benzo[d]imidazol-2-yl)methyl)-7-methyl-1H-indol-5-yl)methyl)acetamide
To a mixture of 2-((5-(aminomethyl)-7-methyl-1H-indol-4-yl)methyl)-1H-benzo[d]imidazole-5-carbonitrile (20 mg, 0.063 mmol) in CH2Cl2 (1 mL)/5% aq. NaHCO3 (2 mL) was added acetyl chloride (45 μL, 0.634 mmol), and then the mixture was stirred at room temperature for 1 hr. The reaction was quenched by methylamine in EtOH (33%, 2 mL), and then stirred for 0.5 h. The layers were separated and the aqueous layer was extracted with CH2Cl2. The combined organics were washed with H2O and brine, dried over Na2SO4, and filtered. After concentration the residue was purified by silica gel flash column chromatography (CH2Cl2/2M NH3 in MeOH=94/6) to give the title compound. 1H NMR (400 MHz, DMSO-d6 with about 5 μL TFA) δ ppm 11.16 (br. s., 1H), 8.47 (t, J=5.31 Hz, 1H), 8.10 (s, 1H), 7.69 (d, J=8.30 Hz, 1H), 7.65 (dd, J=1.00, 8.30 Hz, 1H), 7.30 (dd, J=2.80, 3.00 Hz, 1H), 6.91 (s, 1H), 6.49 (dd, J=1.80, 3.00 Hz, 1H), 4.64 (s, 2H), 4.42 (d, J=5.31 Hz, 2H), 2.45 (s, 3H), 1.79 (s, 3H). HRMS calcd. for C21H19N5O (M+H)+ 358.1662. found 358.1660.

reactant | 2-((5-(aminomethyl)-7-methyl-1H-indol-4-yl)methyl)-1H-benzo[d]imidazole-5-carbonitrile | 0.063 mmol, 20 mg | NCC=1C(=C2C=CNC2=C(C1)C)CC1=NC2=C(N1)C=CC(=C2)C#N | C19H17N5
reactant | NaHCO3 | 2 mL | C(=O)(O)[O-].[Na+]
reactant | acetyl chloride | 0.634 mmol, 45 μL | C(C)(=O)Cl | C2H3ClO
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
product | N-((4-((5-cyano-1H-benzo[d]imidazol-2-yl)methyl)-7-methyl-1H-indol-5-yl)methyl)acetamide | C(#N)C1=CC2=C(NC(=N2)CC2=C3C=CNC3=C(C=C2CNC(C)=O)C)C=C1 | C21H19N5O
